US04663319
N-(p-Nitrobenzyl)-β-alanine methyl ester hydrochloride (32.66 g) and triethylamine (38 ml) are dissolved in methylene chloride (200 ml), and a solution of ethoxycarbonylacetyl chloride (20.0 g) in methylene chloride (100 ml) is added dropwise to the mixture under ice-cooling. The mixture is stirred at the same temperature for one hour, and the mixture is filtered to remove precipitates (triethylamine hydrochloride). The filtrate is washed with 2% HCl, water, 2% NaOH and water, dried and then distilled to remove the solvent to give ethyl[N-(p-nitrobenzyl)-N-(methoxycarbonylethyl)carbamoyl]acetate (40.4 g, 96.4%) as yellow oil.

reactant | N-(p-Nitrobenzyl)-β-alanine methyl ester hydrochloride | 32.66 g | Cl.COC(CCNCC1=CC=C(C=C1)[N+](=O)[O-])=O
reactant | triethylamine | 38 ml | C(C)N(CC)CC | C6H15N
reactant | ethoxycarbonylacetyl chloride | 20.0 g | C(C)OC(=O)CC(=O)Cl | C5H7ClO3
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | ethyl[N-(p-nitrobenzyl)-N-(methoxycarbonylethyl)carbamoyl]acetate | 40.4 g, 96.4% | C(C)OC(CC(N(CCC(=O)OC)CC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C16H20N2O7
